US05773420
N-[2-Methyl-5-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxymethyl)-phenyl]-3-nitrobenzamide
A mixture of N-(5-hydroxymethyl-2-methylphenyl)-3-nitrobenzamide (10.0 g, 0.034 mol), HgBr2 (10.0 g, 0.041 mol), Hg(CN)2 (15.0 g, 0.058 mol), and α-D-glucopyranosyl bromide tetraacetate (17.2 g, 0.042 mol) in nitromethane (200 mL) was heated under reflux for 4 h. 2.0M KBr was added and the mixture was stirred for 30 minutes and extracted with EtOAc. The combined extracts were washed with saturated aqueous NaHCO3 and brine, dried (MgSO4), and concentrated to give 12.0 g (56%) of product as a brown foam; 1H NMR (DMSO-d6) δ2.00 (m, 12 H), 2.21 (s, 3 H), 4.00 (m, 2 H), 4.20 (dd, J=12.4, 5.0 Hz, 1 H), 4.58 (d, J=12.4 Hz, 1 H), 4.82 (m, 4 H), 5.27 (t, J=9.3 Hz, 1 H), 7.10 (d, J=7.8 Hz, 1 H), 7.24 (d, J=7.8 Hz, 1 H), 7.25 (s, 1 H), 7.81 (m, 1 H), 8.42 (m, 2 H), 8.80 (s, 1 H), 10.60 (s, 1 H).

reactant | N-(5-hydroxymethyl-2-methylphenyl)-3-nitrobenzamide | 0.034 mol, 10.0 g | OCC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C15H14N2O4
reactant | Hg(CN)2 | 0.058 mol, 15.0 g | [Hg](C#N)C#N
reactant | α-D-glucopyranosyl bromide tetraacetate | 0.042 mol, 17.2 g | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.[C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)Br
reactant | KBr | 2.0M | [K+].[Br-]
solvent | nitromethane | 200 mL | [N+](=O)([O-])C | CH3NO2
catalyst | HgBr2 | 0.041 mol, 10.0 g | [Hg](Br)Br
product | N-[2-Methyl-5-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxymethyl)-phenyl]-3-nitrobenzamide | 12.0 g, 56% | CC1=C(C=C(C=C1)CO[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C29H32N2O13
